US07135474B2
1-(2,3-Difluorobenzyl)hydrazine
Preparation takes place in analogy to that described in Example 1 A from 2.74 g (54.75 mmol) of hydrazine hydrate and 3.02 g (14.60 mmol) of 2,3-difluorobenzyl bromide. For work up, the residue is purified by flash chromatography (mobile phase: dichloromethane:methanol 30:1–10:1).

reactant | hydrazine hydrate | 54.75 mmol, 2.74 g | O.NN
reactant | 2,3-difluorobenzyl bromide | 14.60 mmol, 3.02 g | FC1=C(CBr)C=CC=C1F | C7H5BrF2
product | 1-(2,3-Difluorobenzyl)hydrazine | FC1=C(CNN)C=CC=C1F | C7H8F2N2
